US04692464
1(d) (1S,2R,3S,4R)-3-Benzyloxymethyl-2-(prop-2-en-1-yl)-1-tosyloxy-4-(tetrahydropyran-2-yloxy)cyclopentane
A solution of 12.5 g. of the alcohol prepared according to Reference Example 1(c) in 36 ml. of pyridine is combined with 13.6 g. of p-toluenesulfonyl chloride and agitated for 2 days at room temperature under argon. The mixture is then combined with 6 ml. of ice water, stirred for 2 hours at room temperature, diluted with 0.6 l. of ether, and shaken, in succession, with water, ice-cold 4% sulfuric acid, water, 5% NaHCO3 solution, and three times with water. The mixture is dried over magnesium sulfate and evaporated under vacuum, thus obtaining 17.3 g. of the tosylate as a colorless oil

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | (1S,2R,3S,4R)-3-Benzyloxymethyl-2-(prop-2-en-1-yl)-1-tosyloxy-4-(tetrahydropyran-2-yloxy)cyclopentane | C(C1=CC=CC=C1)OC[C@@H]1[C@H]([C@H](C[C@H]1OC1OCCCC1)OS(=O)(=O)C1=CC=C(C)C=C1)CC=C | C28H36O6S
